US09029361B2
Part C. Preparation of (8S,9aS)-5-oxo-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-1H-pyrrolo[1,2-a][1,4]diazepin-8-yl 4-nitrobenzoate
(8R,9aS)-8-Hydroxy-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one (100 mg, 0.317 mmol, Part B), triphenylphosphine (104 mg, 0.396 mmol), and 4-nitrobenzoic acid (80 mg, 0.476 mmol) were dissolved in tetrahydrofuran (2 mL), and the resulting solution was cooled to −78° C. Diisopropyl azodicarboxylate (77 mg, 0.381 mmol) in tetrahydrofuran (0.5 mL) was added. The mixture was warmed to room temperature and stirred for two hours. Then 1 drop of water was added. The mixture was purified by chromatography on silica gel (ethyl acetate/heptanes=1:1 then 100% ethyl acetate) to give 138 mg (94% yield) of the titled compound as a solid. 1H NMR (400 MHz, CDCl3) δ ppm 2.20 (m, 1H), 2.77 (m, 3 H), 3.33 (m, 1 H), 3.47 (m, 1 H), 3.88 (m, 1 H), 4.00 (m, 1H), 4.12 (m, 1H), 4.37 (m, 1H), 4.77 (dd, J=14, 4 Hz, 1 H), 5.54 (m, 1H), 6.67 (d, J=8 Hz, 1 H), 7.69 (d, J=8 Hz, 1 H), 8.20 (d, J=8 Hz, 2 H), 8.35 (d, J=8 Hz, 2 H), 8.42 (s, 1 H); MS (ESI) m/z 465.0 (M+H)+.

reactant | (8R,9aS)-8-Hydroxy-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one | 0.317 mmol, 100 mg | O[C@@H]1C[C@@H]2N(C(CCN(C2)C2=NC=C(C=C2)C(F)(F)F)=O)C1 | C14H16F3N3O2
reactant | triphenylphosphine | 0.396 mmol, 104 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 0.476 mmol, 80 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | Diisopropyl azodicarboxylate | 0.381 mmol, 77 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
catalyst | water | 1 drop | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8S,9aS)-5-oxo-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-1H-pyrrolo[1,2-a][1,4]diazepin-8-yl 4-nitrobenzoate | 138 mg, 94% yield | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2C[C@@H]3N(C(CCN(C3)C3=NC=C(C=C3)C(F)(F)F)=O)C2)C=C1 | C21H19F3N4O5
